US07812021B2
a) (3SR,4RS)-3-(3,4-Dichloro-phenyl)-4-[(SR)-1-(5-trifluoromethyl-pyridin-2-yloxy)-ethyl]-pyrrolidine-1-carbonyl chloride
To a stirred solution of carbonic acid ditrichloromethyl ester (triphosgene) (22 mg 0.074 mmol) in CH2Cl2 (3 mL) at −78° C., was added a solution of 2-{(SR)-1-[(3RS,4SR)-4-(3,4-dichloro-phenyl)pyrrolidin-3-yl]-ethoxy}-5-trifluoromethyl-pyridine (intermediate XV-B-3) (76 mg, 0.19 mmol) and pyridine (0.03 mL, 0.42 mmol) in CH2Cl2 (1 mL) over 30 minutes. The temperature was raised to RT, and stirring was continued over night. The organic phase was washed with H2O, dried over Na2SO4. Concentration under vacuo yielded and column chromatography (SiO2, EtOAc/H, 1:4) yielded 36 mg (41%) of the title compound as a viscous colorless oil.

reactant | triphosgene | 0.074 mmol, 22 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-{(SR)-1-[(3RS,4SR)-4-(3,4-dichloro-phenyl)pyrrolidin-3-yl]-ethoxy}-5-trifluoromethyl-pyridine | 0.19 mmol, 76 mg | ClC=1C=C(C=CC1Cl)C1C(CNC1)C(C)OC1=NC=C(C=C1)C(F)(F)F | C18H17Cl2F3N2O
reactant | pyridine | 0.42 mmol, 0.03 mL | N1=CC=CC=C1 | C5H5N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (3SR,4RS)-3-(3,4-Dichloro-phenyl)-4-[(SR)-1-(5-trifluoromethyl-pyridin-2-yloxy)-ethyl]-pyrrolidine-1-carbonyl chloride | 36 mg, 41% | ClC=1C=C(C=CC1Cl)C1CN(CC1C(C)OC1=NC=C(C=C1)C(F)(F)F)C(=O)Cl | C19H16Cl3F3N2O2
